US05990102
d. Silver (3S,4R)-3-chloro-1-(methoxycarbonylmethyl)-2-oxoazetidine-4-thiolate
A solution of methyl [(3S,4R)-4-acetylthio-3-chloro-2-oxo-azetidin-1-yl]acetate (3.64 g, 0.0145 mol) in methanol (125 ml) was added with stirring in subdued light to a solution of silver nitrate (3.2 g, 0.0188 mol) in methanol (55 ml). Triethylamine (2.6 ml, 0.0187 mol) was then added with ice cooling, and the reaction was stirred for 1 hr at 5-10° C. followed by 40 minutes at room temperature. The mixture was filtered and the solid washed with methanol (x2) and hexane to yield the title compound, 4.19 g (92%).

reactant | methyl [(3S,4R)-4-acetylthio-3-chloro-2-oxo-azetidin-1-yl]acetate | 0.0145 mol, 3.64 g | C(C)(=O)S[C@@H]1[C@H](C(N1CC(=O)OC)=O)Cl | C8H10ClNO4S
reactant | silver nitrate | 0.0188 mol, 3.2 g | [N+](=O)([O-])[O-].[Ag+]
reactant | Triethylamine | 0.0187 mol, 2.6 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 125 ml | CO | CH4O
solvent | methanol | 55 ml | CO | CH4O
product | Silver (3S,4R)-3-chloro-1-(methoxycarbonylmethyl)-2-oxoazetidine-4-thiolate | Cl[C@H]1C(N([C@@H]1[S-])CC(=O)OC)=O.[Ag+] | InChI=1S/C6H8ClNO3S.Ag/c1-11-3(9)2-8-5(10)4(7)6(8)12;/h4,6,12H,2H2,1H3;/q;+1/p-1/t4-,6+;/m0./s1
